US04108993
A mixture of 13.3 g of N-benzyl-hydroxylamine in 260 ml of anhydrous benzene was added to a solution of 20.3 g of 3,4-dichlorophenyl isocyanate in 400 ml of anhydrous benzene and the mixture was refluxed for half an hour and then was cooled with stirring. The mixture was vacuum filtered and the recovered crystals were empasted with benzene to obtain 28.2 g of N-hydroxy-N-benzyl-N'-(3',4'-dichlorophenyl)-urea melting at 157° C.

reactant | N-benzyl-hydroxylamine | 13.3 g | C(C1=CC=CC=C1)NO | C7H9NO
reactant | 3,4-dichlorophenyl isocyanate | 20.3 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | benzene | 260 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | N-hydroxy-N-benzyl-N'-(3',4'-dichlorophenyl)-urea | 28.2 g | ON(C(=O)NC1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1 | C14H12Cl2N2O2
